US03976783
A mixture 3,4-dibenzyloxyphenacyl bromide (32.8 g.), N-[2-(4-carbamoylmethylphenoxy)ethyl]benzylamine (22.8 g.), anhydrous sodium carbonate (8.4 g.) and ethanol (1 liter) was boiled under reflux for 3 hours, then filtered hot to remove the inorganic sediment and evaporated in vacuo to afford a thick syrup. The latter was recrystallized upon trituration in diethyl ether and a sample of the resultant solid was recrystallized from ethanol to give N-benzyl-N-(3,4-dibenzyloxybenzoyl)methyl-2-(4-carbamoylmethylphenoxy)ethylamine, m.p. 99°- 101°C.

reactant | 3,4-dibenzyloxyphenacyl bromide | 32.8 g | C(C1=CC=CC=C1)OC=1C=C(C(CBr)=O)C=CC1OCC1=CC=CC=C1 | C22H19BrO3
reactant | N-[2-(4-carbamoylmethylphenoxy)ethyl]benzylamine | 22.8 g | C(N)(=O)CC1=CC=C(OCCNCC2=CC=CC=C2)C=C1 | C17H20N2O2
reactant | sodium carbonate | 8.4 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | N-benzyl-N-(3,4-dibenzyloxybenzoyl)methyl-2-(4-carbamoylmethylphenoxy)ethylamine | C(C1=CC=CC=C1)N(CC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)CCOC1=CC=C(C=C1)CC(N)=O | C39H38N2O5
